US05616579
3(a) N-[4-(4-Piperidinomethyl-2-pyridyloxy]-cis-2-butenyl]-3-(acetylthio)propionamide
1.00 g of 3-(acetylthio)propionic acid, 1.39 g of dicyclohexyl carbodiimide, 1.05 g of 1-hydroxybenzotriazole and 1.76 g of 4-(4-piperidinomethyl-2-pyridyloxy)-cis-2-butenylamine were added to 45 ml of dimethylformamide, and the solution was stirred for 5 hours at room temperature. At the end of this time, ethyl acetate was added to the reaction mixture, insoluble matter was filtered off, and the filtrate was washed with a saturated aqueous solution of sodium hydrogencarbonate and then with water. The reaction mixture was then condensed by evaporation under reduced pressure, and the resulting residue was subjected to silica gel chromatography, eluted with a 1:19 by volume mixture of methanol and ethyl acetate, to give 1.27 g (yield 48%) of the title compound as an oil.

reactant | 3-(acetylthio)propionic acid | 1.00 g | C(C)(=O)SCCC(=O)O | C5H8O3S
reactant | dicyclohexyl carbodiimide | 1.39 g | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
reactant | 1-hydroxybenzotriazole | 1.05 g | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | 4-(4-piperidinomethyl-2-pyridyloxy)-cis-2-butenylamine | 1.76 g | N1(CCCCC1)CC1=CC(=NC=C1)OC\C=C/CN | C15H23N3O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | dimethylformamide | 45 ml | CN(C=O)C | C3H7NO
product | N-[4-(4-Piperidinomethyl-2-pyridyloxy]-cis-2-butenyl]-3-(acetylthio)propionamide | 1.27 g, yield 48% | N1(CCCCC1)CC1=CC(=NC=C1)OC\C=C/CNC(CCSC(C)=O)=O | C20H29N3O3S
